US06790867B2
Florfenicol/Flunixin Combination Formulations
The NMP or dimethylacetamide, citric acid, propylene glycol, and approximately 90% of the PEG 300 or glycerol formal required for each formulation were charged to the compounding vessel and mixed well. The florfenicol and flunixin meglumine were added with mixing until all solids were dissolved. The volume was adjusted with the remaining PEG 300 or glycerol formal.

reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | propylene glycol | C(C(C)O)O | C3H8O2
reactant | glycerol formal | C1C(OCO1)CO | C4H8O3
reactant | florfenicol | CS(=O)(=O)C=1C=CC(=CC1)[C@H]([C@@H](CF)NC(=O)C(Cl)Cl)O | C12H14Cl2FNO4S
reactant | flunixin meglumine | CC1=C(C=CC=C1NC2=C(C=CC=N2)C(=O)O)C(F)(F)F.CNC[C@@H]([C@H]([C@@H]([C@@H](CO)O)O)O)O
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | NMP | CN1CCCC1=O | C5H9NO
product | Florfenicol Flunixin | CS(=O)(=O)C=1C=CC(=CC1)[C@H]([C@@H](CF)NC(=O)C(Cl)Cl)O.CC1=C(C=CC=C1NC2=C(C=CC=N2)C(=O)O)C(F)(F)F | InChI=1S/C14H11F3N2O2.C12H14Cl2FNO4S/c1-8-10(14(15,16)17)5-2-6-11(8)19-12-9(13(20)21)4-3-7-18-12;1-21(19,20)8-4-2-7(3-5-8)10(17)9(6-15)16-12(18)11(13)14/h2-7H,1H3,(H,18,19)(H,20,21);2-5,9-11,17H,6H2,1H3,(H,16,18)/t;9-,10-/m.1/s1
